US08633312B2
8-(2-Aminophenylamino)-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (11b)
For the synthesis of the title compound, 0.54 g (0.0020 mol) of 8-chloro-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 1.08 g (0.010 mol) of phenylenediamine, 2 spatula tips of Pd(OAc)2, 0.14 g of phosphine ligand and 1.60 g (0.0166 mol) of NaOtert-Bu in 10 ml of toluene and 2 ml of tert-BuOH are reacted by method O. Purification is carried out by column chromatography (flash; SiO2; hexane 80%/ethyl acetate 20%). C22H20N2O2 (Mr=344.42)

reactant | 8-chloro-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.0020 mol, 0.54 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC)C1 | C16H13ClO2
reactant | phenylenediamine | 0.010 mol, 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | phosphine | 0.14 g | P | H3P
reactant | NaOtert-Bu | 0.0166 mol, 1.60 g | O([Na])C(C)(C)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 8-(2-Aminophenylamino)-1-methoxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | NC1=C(C=CC=C1)NC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC)C1 | C22H20N2O2
